US06660744B1
n-Butyl lithium(1.6 M in hexane solution, 5.7 ml, 9.05 mmol) was added slowly to a solution of N1-phenyl-4-bromo-2-methoxybenzamide (1.0 g, 3.62 mmol) in tetrahydrofuran (27 mL) at −78° C. After 30 minutes, triisopropyl borate (1.25 mL, 5.43 mmol) was added rapidly. The reaction mixture was allowed to warm up to room temperature after 13 minutes and stirred for 6 hours. Hydrochloric acid (2.5N, 27 mL) was added and the mixture was stirred overnight. The layers were separated and the aqueous layer was extracted with ethyl acetate. The combined organic layer was washed with brine, dried over MgSO4, filtered and concentrated. The residue was recrystallized from ethyl acetate/heptane to give 4-(anilinocarbonyl)phenylboronic acid (0.354 g, 40%). 1H NMR (DMSO-d6) δ 7.10 (m, 1H), 7.35 (m, 2H), 7.80 (m, 4H), 7.92 (m, 2H), 8.23 (s, 2H), 10.23 (s, 1H).

reactant | n-Butyl lithium | 9.05 mmol, 1.6 M, 5.7 ml | C(CCC)[Li]
reactant | N1-phenyl-4-bromo-2-methoxybenzamide | 3.62 mmol, 1.0 g | C1(=CC=CC=C1)NC(C1=C(C=C(C=C1)Br)OC)=O | C14H12BrNO2
reactant | triisopropyl borate | 5.43 mmol, 1.25 mL | B(OC(C)C)(OC(C)C)OC(C)C | C9H21BO3
reactant | Hydrochloric acid | 2.5N, 27 mL | Cl | ClH
solvent | tetrahydrofuran | 27 mL | O1CCCC1 | C4H8O
product | 4-(anilinocarbonyl)phenylboronic acid | 0.354 g, 40% | N(C1=CC=CC=C1)C(=O)C1=CC=C(C=C1)B(O)O | C13H12BNO3
